US07906537B2
N-{2-Chloro-4-[(5-chloro-thiophen-2-ylmethyl)-(methyl)amino]phenyl}-2,2,2-trifluoroacetamide
To a mixture of N-{2-Chloro-4-[(5-chloro-thiophen-2-ylmethyl)-amino]-phenyl}-2,2,2-trifluoroacetamide (3.28 g, 8.88 mmol), 37% aqueous formaldehyde (5 mL), and acetic acid (3 mL), sodium cyanoborohydride (NaBH3CN) (1.1 g) in methanol (10 mL) was added dropwise with stirring during 30 minutes. The reaction mixture was allowed to stand at room temperature for 2 hours and poured into water. After the oil solidified, it was filtered, washed with water and dried in vacuo to give 3.26 g of pale yellow-brown solid. Yield 95%. 1H NMR (DMSO-d6): 2.97 (s, 3H, NMe), 4.72 (s, 2H), 6.82 (m, 1H), 6.91 (m, 2H), 6.97 (d, 1H), 7.21 (d, 1H), 10.92 (br. s, 1H, NHCO). LC/MS (m/z) 382.0 (M+); RT=3.66, (UV, ELSD) 85%, 98%.

reactant | N-{2-Chloro-4-[(5-chloro-thiophen-2-ylmethyl)-amino]-phenyl}-2,2,2-trifluoroacetamide | 8.88 mmol, 3.28 g | ClC1=C(C=CC(=C1)NCC=1SC(=CC1)Cl)NC(C(F)(F)F)=O | C13H9Cl2F3N2OS
reactant | formaldehyde | 5 mL | C=O | CH2O
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1.1 g | C(#N)[BH3-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | N-{2-Chloro-4-[(5-chloro-thiophen-2-ylmethyl)-(methyl)amino]phenyl}-2,2,2-trifluoroacetamide | 3.26 g, Yield 95% | ClC1=C(C=CC(=C1)N(C)CC=1SC(=CC1)Cl)NC(C(F)(F)F)=O | C14H11Cl2F3N2OS
